US05545652
To a mixture of 2.1 g of the resulting N-ethoxycarbonylmethyl-4-(2,2,3,3-tetrafluoropropoxy)aniline, 1.1 ml of triethylamine and 50 ml of dichloromethane was added dropwise a solution of 0.6 ml of chloroacetyl chloride in 6 ml of dichloromethane with ice cooling and the resulting mixture was stirred at room temperature for five hours. To the reaction solution was added 50 ml of dichloromethane and 100 ml of ice water to factionate. The dichloromethane layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluted with ethyl acetate:hexane [1:2 v/v]) to give 2.4 g of N-chloroacetyl-N-ethoxycarbonylmethyl-4-(2,2,3,3-tetrafluoropropoxy)aniline as a yellow oily substance.

reactant | N-ethoxycarbonylmethyl-4-(2,2,3,3-tetrafluoropropoxy)aniline | 2.1 g | C(C)OC(=O)CNC1=CC=C(C=C1)OCC(C(F)F)(F)F | C13H15F4NO3
reactant | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.6 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-chloroacetyl-N-ethoxycarbonylmethyl-4-(2,2,3,3-tetrafluoropropoxy)aniline | 2.4 g | ClCC(=O)N(C1=CC=C(C=C1)OCC(C(F)F)(F)F)CC(=O)OCC | C15H16ClF4NO4
